US07320994B2
{4-[1-(3,5-bis-trifluoromethyl-benzyl)-5-pyridin-3-yl-1H-[1,2,3]triazol-4-yl]-thiazol-5-yl}-(2-chloro-phenyl)-methanone
Add isoamylnitrite (29 μL, 0.21 mmol) to a solution of {2-amino-4-[1-(3,5-bis-trifluoromethyl-benzyl)-5-pyridin-3-yl-1H-[1,2,3]triazol-4-yl]-thiazol-5-yl}-(2-chloro-phenyl)-methanone (63 mg, 0.103 mmol) in THF (1.5 mL). Stir the solution at RT for 30 min. then warm to reflux for an additional 30 min. Cool solution to RT and dilute with EtOAc (30 mL). Wash the organic solution with saturated NaHCO3 (15 mL) and brine (15 mL) then dry, filter, and concentrate. Purify the crude material by flash chromatography then triturate with ether (2×0.3 mL) and dry to give the title compound: MS (IS) 594.1 (M+1), MS (ES−) 592.0 (M−1); 1HNMR (400 MHz, CDCl3): δ 9.17 (s, 1H), 8.60 (d, 1H, J=5.0), 8.50 (s, 1H), 7.97 (s, 1H), 7.76 (s, 1H), 7.65 (s, 2H), 7.41 (m, 2H), 7.24 (m, 2H), 7.19 (m, 1H), 5.77 (s, 2H).

reactant | isoamylnitrite | 0.21 mmol, 29 μL | C(CC(C)C)ON=O | C5H11NO2
reactant | {2-amino-4-[1-(3,5-bis-trifluoromethyl-benzyl)-5-pyridin-3-yl-1H-[1,2,3]triazol-4-yl]-thiazol-5-yl}-(2-chloro-phenyl)-methanone | 0.103 mmol, 63 mg | NC=1SC(=C(N1)C=1N=NN(C1C=1C=NC=CC1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(=O)C1=C(C=CC=C1)Cl | C26H15ClF6N6OS
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | {4-[1-(3,5-bis-trifluoromethyl-benzyl)-5-pyridin-3-yl-1H-[1,2,3]triazol-4-yl]-thiazol-5-yl}-(2-chloro-phenyl)-methanone | FC(C=1C=C(CN2N=NC(=C2C=2C=NC=CC2)C=2N=CSC2C(=O)C2=C(C=CC=C2)Cl)C=C(C1)C(F)(F)F)(F)F | C26H14ClF6N5OS
